US04151297
b. 4-Acetoxy-3-acetylbenzoic acid
To a suspension of 2.3 g. of 4-hydroxy-3-acetylbenzoic acid in 100 ml. of methylene chloride and 100 ml. of tetrahydrofuran, a mixture of 1.5 g. of triethylamine, 1.6 g. of 4-N-dimethylaminopyridine and 1.5 g. of acetic anhydride is added. The reaction mixture is heated at 50° for one hour. The solution is extracted with ethyl acetate, the organic layer washed with water and dilute hydrochloric acid and evaporated to dryness to yield 2.1 g. of the benzoic acid product. NMR in CDCl3

reactant | 4-hydroxy-3-acetylbenzoic acid | OC1=C(C=C(C(=O)O)C=C1)C(C)=O | C9H8O4
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-Acetoxy-3-acetylbenzoic acid | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1)C(C)=O | C11H10O5
